US07943748B2
(1) Synthesis of 1-(2,2-Dimethoxyethylsulfanyl)-4-fluorobenzene
In a nitrogen stream, 4-fluorobenzenethiol (2.5 ml, 23.4 mmol) and 2-bromo-1,1-dimethoxyethane (3.0 ml, 25.7 mmol) were added to a sodium methoxide methanol solution (0.5 M, 74.9 ml, 37.4 mmol) under cooling with ice and the reaction mixture was stirred at the same temperature for 10 minutes, and then heated and refluxed for five hours. The reaction mixture was concentrated under reduced pressure, and added with cold water. The mixture was extracted with ether. The organic layer was washed with a saturated sodium chloride aqueous solution, and then dried with sodium sulfate. After filtration, the solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:20)] to obtain the title compound (4.52 g, 89%).

reactant | 4-fluorobenzenethiol | 23.4 mmol, 2.5 ml | FC1=CC=C(C=C1)S | C6H5FS
reactant | 2-bromo-1,1-dimethoxyethane | 25.7 mmol, 3.0 ml | BrCC(OC)OC | C4H9BrO2
reactant | sodium methoxide methanol | 37.4 mmol, 0.5 M, 74.9 ml | CO.C[O-].[Na+]
product | 1-(2,2-Dimethoxyethylsulfanyl)-4-fluorobenzene | 4.52 g, 89% | COC(CSC1=CC=C(C=C1)F)OC | C10H13FO2S
